US07678834B2
50 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile were dissolved in 400 ml analytical grade tetrahydrofuran, 214 ml 2.0 molar benzylmagnesium chloride solution in THF were added under a nitrogen atmosphere and the mixture was stirred overnight at room temperature. For working up, 200 ml saturated ammonium chloride solution were added, while cooling with ice, the phases were separated, the aqueous phase was extracted twice with 250 ml diethyl ether each time, the combined organic phases were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. The crude (8-benzyl-1,4-dioxaspiro[4.5]dec-8-yl)-dimethylamine obtained (78.4 g) was stirred, without further purification, with a mixture of 200 ml conc. hydrochloric acid (32 per cent by weight) and 120 ml water for 24 hours at room temperature. The reaction mixture was then first washed three times with 100 ml diethyl ether each time, then rendered alkaline by addition of sodium hydroxide solution (32 per cent by weight), while cooling with ice, and extracted three times with 100 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. 50.4 g 4-benzyl-4-dimethylaminocyclohexanone were obtained as a brownish solid.

reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 50 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzylmagnesium chloride | 2.0 molar, 214 ml | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | (8-benzyl-1,4-dioxaspiro[4.5]dec-8-yl)-dimethylamine | C(C1=CC=CC=C1)C1(CCC2(OCCO2)CC1)N(C)C | C17H25NO2
